US06723744B2
Step A: Preparation of 5-{3-[(4-Fluoro-phenyl)-hydroxy-methyl]-4-hydroxy-phenoxy}-4,6-dimethyl-1H-indole-2-carboxylic acid ethyl ester
To a solution of 5-[3-(4-Fluoro-benzoyl)-4-hydroxy-phenoxy]-4,6-dimethyl-1H-indole-2-carboxylic acid ethyl ester (20 mg, 0.045 mmol) in ethanol (1 mL) at room temperature was added sodium borohydride (3.4 mg, 0.089 mmol), and the resulting solution was stirred at room temperature for 1 hour. The reaction was quenched with 1M HCl.(10 mL), diluted with ethyl acetate (10 mL). The ethyl acetate layer was separated, washed with 1M HCl (2 times 10 mL), brine (10 mL), dried over Na2SO4, filtered, and concentrated. The residue was purified by preparative thin layer chromatography (4% methanol in methylene chloride) to afford the title compound (17.5 mg) as a solid. 1H NMR (400 MHz, CDCl3) δ8.76 (s, 1H), 7.31-7.23 (m, 2H), 7.17 (s, 1H), 7.05 (s, 1H), 6.98 (t, 2H), 6.72 (d, 1H), 6.50 (dd, 1H), 6.36 (d, 1H), 5.84 (s, 1H), 4.40-4.34 (q, 2H), 2.25 (s, 3H), 2.14 (s, 3H), 1.38 (t, 3H). MS (APCI−) Calc:449.2, Found: 448.3 (M−1).

reactant | 5-[3-(4-Fluoro-benzoyl)-4-hydroxy-phenoxy]-4,6-dimethyl-1H-indole-2-carboxylic acid ethyl ester | 0.045 mmol, 20 mg | C(C)OC(=O)C=1NC2=CC(=C(C(=C2C1)C)OC1=CC(=C(C=C1)O)C(C1=CC=C(C=C1)F)=O)C | C26H22FNO5
reactant | sodium borohydride | 0.089 mmol, 3.4 mg | [BH4-].[Na+]
solvent | ethanol | 1 mL | C(C)O | C2H6O
product | 5-{3-[(4-Fluoro-phenyl)-hydroxy-methyl]-4-hydroxy-phenoxy}-4,6-dimethyl-1H-indole-2-carboxylic acid ethyl ester | 17.5 mg | C(C)OC(=O)C=1NC2=CC(=C(C(=C2C1)C)OC1=CC(=C(C=C1)O)C(O)C1=CC=C(C=C1)F)C | C26H24FNO5
